US08067445B2
Step 4: {5-Chloro-2′-[(cyclopropanecarbonyl-ethyl-amino)-methyl]-5′-methoxy-biphenyl-3-yl}-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: (5-chloro-2′-ethylaminomethyl-5′-methoxy-biphenyl-3-yl)-acetic acid methyl ester and cyclopropanecarbonyl chloride.

reactant | (5-chloro-2′-ethylaminomethyl-5′-methoxy-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C=C(C1)Cl)C1=C(C=CC(=C1)OC)CNCC)=O | C19H22ClNO3
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | {5-Chloro-2′-[(cyclopropanecarbonyl-ethyl-amino)-methyl]-5′-methoxy-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C=C(C1)Cl)C1=C(C=CC(=C1)OC)CN(CC)C(=O)C1CC1)=O | C23H26ClNO4
